US04306075
The above solid is suspended in 300 ml of dimethylformamide under a nitrogen atmosphere, cooled to 0° C., treated with 35 g of imidazole, stirred for 15 min at 0° C. and 15 min at ambient temperature, cooled to 0° C. and treated with 39 g of t-butyldimethyl silylchloride. The resulting solution is then allowed to warm to ambient temperature under a nitrogen atmosphere. After 26 hr, the resulting solution is treated with 8 g of sodium hydroxide in 40 ml of water and 40 ml of methanol, with stirring maintained under a nitrogen atmosphere. After 13 hr, the suspension is acidified to pH 4 with 500 ml of 1 N aqueous hydrogen chloride, then saturated with sodium chloride and extracted with ethyl acetate. The ethyl acetate extracts are then washed with 1 N aqueous sodium hydroxide. The basic extracts are then acidified to pH 4 with concentrated hydrochloric acid, saturated with brine, and extracted with ethyl acetate. The ethyl acetate extracts are then washed with brine, dried over sodium sulfate, and concentrated under reduced pressure to yield 22.6 g of a yellow liquid, 5-carboxypentanol, t-butyldimethylsilyl ether. Chromatography on 800 g of silica gel eluting with ethyl acetate and hexane (1:9 to 1:1) yields 14.8 g of 5-carboxypentanol, t-butyldimethylsilyl ether. NMR absorptions are observed at 0.05 (singlet) and 0.90 (singlet)δ. Infrared absorptions are observed at 3000 (broad) and 1700 cm-1.

reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | t-butyldimethylsilyl ether | [Si](C)(C)(C(C)(C)C)O[Si](C)(C)C(C)(C)C | C12H30OSi2
reactant | hexane | CCCCCC | C6H14
product | 5-carboxypentanol | 14.8 g | C(=O)(O)CCCCCO | C6H12O3
